US09382188B2
A) ethyl 3-cyclopropyl-3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)sulfinyl)methyl)phenyl)propanoate
To a solution of ethyl 3-cyclopropyl-3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)thio)methyl)phenyl)propanoate (158 mg) in methanol (0.95 mL) was added a solution of sodium periodate (66 mg) in water (50 μL), and the mixture was stirred at room temperature for 7 hr. To the reaction mixture was added saturated aqueous sodium thiosulfate solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (143 mg) as a colorless oil.

reactant | ethyl 3-cyclopropyl-3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)thio)methyl)phenyl)propanoate | 158 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)CSC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C33H39FO3S
reactant | sodium periodate | 66 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methanol | 0.95 mL | CO | CH4O
solvent | water | 50 μL | O | H2O
product | ethyl 3-cyclopropyl-3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)sulfinyl)methyl)phenyl)propanoate | 143 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)CS(=O)C1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C33H39FO4S
